US06844345B2
c) (R)-7-Bromo-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester
A solution of 8.1 g (30.1 mmol) 7-bromo-1H-indole-2-carboxylic acid ethyl ester in 120 ml N,N-dimethylformamide was cooled to 0° C. and 3.55 g (31.6 mmol) potassium tert-butoxide was added. After 30 min., 7.86 g (33.1 mmol) (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester were added and the cooling bath was removed. After 20 h the reaction mixture was poured on 10% aqueous citric acid solution and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered and evaporated. The resulting yellow oil was chromatographed on silica gel (0.032-0.063 mm) with tert-butyl methyl ether: n-hexane (1:8) as eluant to give the desired compound as a yellow oil. ISP-MS: m/e=427.3 ([M+H+]).

reactant | 7-bromo-1H-indole-2-carboxylic acid ethyl ester | 30.1 mmol, 8.1 g | C(C)OC(=O)C=1NC2=C(C=CC=C2C1)Br | C11H10BrNO2
reactant | potassium tert-butoxide | 31.6 mmol, 3.55 g | CC(C)([O-])C.[K+]
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | 33.1 mmol, 7.86 g | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
solvent | N,N-dimethylformamide | 120 ml | CN(C=O)C | C3H7NO
product | (R)-7-Bromo-1-(2-tert-butoxycarbonylamino-1-methyl-ethyl)-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=C(C=CC=C2C1)Br)[C@@H](CNC(=O)OC(C)(C)C)C | C19H25BrN2O4
